US06638927B2
6-Chloro-N-[2-(2,4-dichlorophenyl)ethyl]pyridine-3-carboxamide (1 equivalent) and sodium azide (2.6 equivalents) were suspended in anhydrous DMSO (0.6 M) under nitrogen. The mixture was heated at 100° C. for four days. Ethyl acetate was added and the organic phase washed with water and brine, dried over anhydrous sodium sulfate, and filtered. The filtrate was evaporated to dryness and the resultant residue dissolved in a 1:1 ethyl acetate/DCM mixture. This solution was purified by flash chromatography over silica (1:1 ethyl acetate/DCM). The fractions coeluting with the major band (Rf 0.53, eluent: 1:1 ethyl acetate/DCM) were combined and evaporated to dryness. The residue was recrystallized from acetonitrile to give 6-azido-N-[2-(2,4-dichlorophenyl)ethyl]-pyridine-3-carboxamide as pale yellow needles. LCMS (MH+) 336.

reactant | 6-Chloro-N-[2-(2,4-dichlorophenyl)ethyl]pyridine-3-carboxamide | 1 equivalent | ClC1=CC=C(C=N1)C(=O)NCCC1=C(C=C(C=C1)Cl)Cl | C14H11Cl3N2O
reactant | sodium azide | 2.6 equivalents | [N-]=[N+]=[N-].[Na+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMSO | 0.6 M | CS(=O)C | C2H6OS
product | 6-azido-N-[2-(2,4-dichlorophenyl)ethyl]-pyridine-3-carboxamide | N(=[N+]=[N-])C1=CC=C(C=N1)C(=O)NCCC1=C(C=C(C=C1)Cl)Cl | C14H11Cl2N5O
